US04013661
To 22.6 g (0.1 mol) of 1,4-bis-(trimethylsilyl)-1,4-dihydropyridine are added by drops 5.31 g (0.1 mol) of acrylonitrile within 30 minutes in an inert atmosphere. The mixture is subsequently stirred for several hours at room temperature. Fractional distillation yields 19.9 g (72%) of 1,4-bis-(trimethylsilyl)-2-(1-cyanoethyl)-1,2-dihydropyridine; b.p. 78°C/0.003 mm; yellow oil.

reactant | 1,4-bis-(trimethylsilyl)-1,4-dihydropyridine | 0.1 mol, 22.6 g | C[Si](N1C=CC(C=C1)[Si](C)(C)C)(C)C | C11H23NSi2
reactant | acrylonitrile | 0.1 mol, 5.31 g | C(C=C)#N | C3H3N
product | 1,4-bis-(trimethylsilyl)-2-(1-cyanoethyl)-1,2-dihydropyridine | 19.9 g, 72% | C[Si](N1C(C=C(C=C1)[Si](C)(C)C)C(C)C#N)(C)C | C14H26N2Si2
